US06211242B1
To a solution of N-(4-aminobenzoyl)-N-cyclopentyl-p-anisidine (870 mg) and pyridine (443 mg) in dichloromethane (20 ml) was added o-toluoyl chloride (868 mg) at 0° C. Then the mixture was stirred for 3 hours at ambient temperature. The reaction mixture was concentrated and diluted with ethyl acetate and the solution was washed with water, IN-hydrochloric acid and brine. The organic layer was dried over magnesium sulfate and filtered. The filtrate was concentrated and purified by silica gel column chromatography (SiO2 20 g, ethyl acetate:n-hexane=1:2). The eluent was concentrated and triturated with diethyl ether to give N-cyclopentyl-N-[4-(2-methylbenzoylamino)benzoyl]-p-anisidine (750 mg).

reactant | N-(4-aminobenzoyl)-N-cyclopentyl-p-anisidine | 870 mg | NC1=CC=C(C(=O)N(C2=CC=C(OC)C=C2)C2CCCC2)C=C1 | C19H22N2O2
reactant | pyridine | 443 mg | N1=CC=CC=C1 | C5H5N
reactant | o-toluoyl chloride | 868 mg | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-cyclopentyl-N-[4-(2-methylbenzoylamino)benzoyl]-p-anisidine | 750 mg | C1(CCCC1)N(C1=CC=C(OC)C=C1)C(C1=CC=C(C=C1)NC(C1=C(C=CC=C1)C)=O)=O | C27H28N2O3
